US06849622B2
Ethyl 4-chloro-2-phenyl-5-pyrimidinecarboxylate and N-tert-butoxycarbonyl-trans-1,4-cyclohexanediamine were reacted in ethanol in the presence of dimethylaminopyridine in the same manner as in Reference Example 3-49 to obtain N-tert-butoxycarbonyl-trans-4-(5-ethoxycarbonyl-2-phenyl-4-pyrimidinylamino)cyclohexylamine.

reactant | Ethyl 4-chloro-2-phenyl-5-pyrimidinecarboxylate | ClC1=NC(=NC=C1C(=O)OCC)C1=CC=CC=C1 | C13H11ClN2O2
reactant | N-tert-butoxycarbonyl-trans-1,4-cyclohexanediamine | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)N | C11H22N2O2
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | ethanol | C(C)O | C2H6O
product | N-tert-butoxycarbonyl-trans-4-(5-ethoxycarbonyl-2-phenyl-4-pyrimidinylamino)cyclohexylamine | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)NC1=NC(=NC=C1C(=O)OCC)C1=CC=CC=C1 | C24H32N4O4
